US04952560
Example 31: 0.5 g of clidanac;
Example 25: 1 g of ifenprodil tartarate; Example 29: 1 g of pentazocine hydrochloride.

reactant | ifenprodil tartarate | 1 g | CC(C(C=1C=CC(=CC1)O)O)N2CCC(CC2)CC=3C=CC=CC3.C(C(O)C(O)C(=O)[O-])(=O)[O-]
reactant | pentazocine hydrochloride | 1 g | Cl.OC1=CC=2C3(C)C(C)C(CC2C=C1)N(CC=C(C)C)CC3
product | clidanac | C=1C2=C(C=C(C1C3CCCCC3)Cl)C(CC2)C(=O)O | C16H19ClO2
